US05451678
2.16 g of N-[1(S)-benzyl-3-hydroxy-2(R)-(methylsulphonyloxy)propyl]phthalimide were added to a stirred suspension of 200 mg of sodium hydride (80% dispersion in mineral oil) in 50 ml of dry tetrahydrofuran and the mixture was stirred at 20° C. for 2 hours. A further 100 mg of sodium hydride were added and the stirring was continued for 3.5 hours. The mixture was diluted with dichloromethane and water and the pH of the aqueous layer was adjusted to 7 by adding 2M hydrochloric acid. The organic layer was separated, washed with saturated sodium chloride solution and evaporated. The residue was chromatographed on silica gel using ethyl acetate/n-hexane (1:2) for the elution to give 0.67 g of 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane as a white solid, MS: m/e 294 [M+H]+.

reactant | N-[1(S)-benzyl-3-hydroxy-2(R)-(methylsulphonyloxy)propyl]phthalimide | 2.16 g | C(C1=CC=CC=C1)[C@@H]([C@H](CO)OS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O | C19H19NO6S
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane | 0.67 g | C1(=CC=CC=C1)C[C@H](N1C(C=2C(C1=O)=CC=CC2)=O)[C@@H]2OC2 | C18H15NO3
